US05864039
To a solution of 4-aminomethyl-4-hydroxy-1-(6-oxo-6-phenylhexyl)-piperidine dihydrochloride (2.9 g) in dimethylformamide (50 ml) were added triethylamine (3.2 ml), 4-amino-5-chloro-2-methoxybenzoic acid (1.55 g) and 1-hydroxybenzotriazole (1.09 g), which was followed by the addition of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.55 g) under ice cooling, and the mixture was stirred at room temperature for 6 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was added with water and extracted with chloroform. The organic layer was washed successively with 10% aqueous solution of potassium carbonate and brine, and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by a silica gel column chromatography (chloroform:methanol=10:1) to give 2.98 g of 4-amino-5-chloro-N-((4-hydroxy-1-(6-oxo-6-phenylhexyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-aminomethyl-4-hydroxy-1-(6-oxo-6-phenylhexyl)-piperidine dihydrochloride | 2.9 g | Cl.Cl.NCC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)O
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 1.55 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-hydroxybenzotriazole | 1.09 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.55 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-N-((4-hydroxy-1-(6-oxo-6-phenylhexyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 2.98 g | NC1=CC(=C(C(=O)NCC2(CCN(CC2)CCCCCC(C2=CC=CC=C2)=O)O)C=C1Cl)OC | C26H34ClN3O4
